*ZETEX ZMR500 Spice Model v1.0 Last revision 31/01/07
    .SUBCKT ZMR500 1 2 3 
    * Connections  IN_GND_OUT
    Q1 12 5 6 Qmod1
    R1 4 2 Rmod1 1
    R2 6 7 0.04
    R4 10 2 15E3
    R5 6 8 1E6
    R6 5 6 1E6
    D1 1 11 Dmod1
    D2 11 12 Dmod1
    R8 7 2 Rmod3 100E3
    C4 8 10 130E-12
    I1 2 4 5.001
    G1 5 7 8 4 1
    G2 2 4 1 2 5E-4
    VS 3 7 0
    F1 2 4 VS 0.5
    .MODEL Qmod1 NPN (RC=10 RB=10 RE=10 CJC=2p CJE=5p)
    .MODEL Dmod1 D (IS=0.8E-15)
    .MODEL Rmod1 RES (TC1=-3.9E-5 TC2=-6.1E-7)
    .MODEL Rmod3 RES (TC1=-5E-4 TC2=0E-7)
    .ENDS ZMR500
